US07067540B2
Step 1: 1-allyl-4-hydroxy-6-methylpyridin-2(1H)-one.
4-hydroxy-6-methyl-2-pyrone (2 g, 16 mmol) was stirred in water (25 mL). Allylamine (1.2 ml, 16 mmol) was added to the reaction. The reaction was then heated to 100° C. at which point the reaction became homogeneous. The reaction was stirred at 100° C. for 2 h. The reaction was then allowed to cool to rt after which a white precipitate formed. The precipitate was isolated by suction filtration. After additional washing with water, 1.8 g (69%) of an off-white solid was obtained.

reactant | 4-hydroxy-6-methyl-2-pyrone | 16 mmol, 2 g | OC1=CC(OC(=C1)C)=O | C6H6O3
reactant | Allylamine | 16 mmol, 1.2 ml | C(C=C)N | C3H7N
solvent | water | 25 mL | O | H2O
product | 1-allyl-4-hydroxy-6-methylpyridin-2(1H)-one | 1.8 g, 69% | C(C=C)N1C(C=C(C=C1C)O)=O | C9H11NO2
